US07687637B2
5-(4-Chloro-3-methanesulfonyl-phenyl)-4-methyl-thiazol-2-ylamine
This compound is made via an analogous procedure to N-[5-(4-Chloro-3-methanesulfonyl-phenyl)-4-methyl-thiazol-2-yl]-acetamide (Ex. 48) by replacing N-acetylthiourea with thiourea.

reactant | N-[5-(4-Chloro-3-methanesulfonyl-phenyl)-4-methyl-thiazol-2-yl]-acetamide | ClC1=C(C=C(C=C1)C1=C(N=C(S1)NC(C)=O)C)S(=O)(=O)C | C13H13ClN2O3S2
reactant | thiourea | NC(=S)N | CH4N2S
product | 5-(4-Chloro-3-methanesulfonyl-phenyl)-4-methyl-thiazol-2-ylamine | ClC1=C(C=C(C=C1)C1=C(N=C(S1)N)C)S(=O)(=O)C | C11H11ClN2O2S2
